US04816452
e. 2-(2-Aminothiazol-4-yl)-(Z)-2-(cyclohexyloxyimino)acetic acid
Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cyclohexyloxyimino)acetate (0.536 g) was dissolved in ethanol (15 ml), and water (5 ml) and aqueous sodium hydroxide (1N, 6.4 ml) added. The mixture was stirred at room temperature for 24 h. Ethanol was removed and the residue diluted with water (25 ml), washed with ethyl acetate, and acidified to pH 2.8. The precipitate was collected by filtration, washed with cold water and dried in vacuo to give the title compound as a cream solid (0.335 g; 69%), νmax (nujol) 1630 cm-1 δH (D6DMSO) 1.2-2.0 (10H, br m), 6.78 (1H, d), and 7.14 (2H, s, exch. D2O).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(cyclohexyloxyimino)acetate | 0.536 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1CCCCC1 | C13H19N3O3S
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 1N, 6.4 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(2-Aminothiazol-4-yl)-(Z)-2-(cyclohexyloxyimino)acetic acid | 0.335 g, 69% | NC=1SC=C(N1)/C(/C(=O)O)=N/OC1CCCCC1 | C11H15N3O3S
